* C:\Users\rishi\OneDrive - IIT Delhi (1)\Documents\LTspiceXVII\2023EE11143_Rishima_Assignment\Output rail to rail.asc
M1 N001 N002 N002 N001 CMOSP l=400n w=1600n
M2 N002 N003 N003 N001 CMOSP l=400n w=1600n
M3 N004 N003 N008 N001 CMOSP l=400n w=1600n
M4 N001 N004 out N001 CMOSP l=400n w=1600n
M5 out N008 0 0 CMOSN l=400n w=1600n
M6 N005 N005 N007 0 CMOSN l=400n w=1600n
M7 N007 N007 0 0 CMOSN l=400n w=1600n
M8 N004 N005 N008 N006 CMOSN l=400n w=1600n
Vin N008 0 SINE(1.5 1.5 10)
I1 N001 N004 4µ
I2 N001 N005 2µ
I3 N008 0 2µ
I4 N003 0 2µ
V2 N001 0 3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rishi\OneDrive - IIT Delhi (1)\Documents\LTspiceXVII\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
.tran 10
.backanno
.end
