* C:\Users\rishi\OneDrive - IIT Delhi (1)\Documents\LTspiceXVII\2023EE11143_Rishima_Assignment\common source amplifier.asc
R1 N003 N002 5
V§small_signal N002 0 SINE(0 0.05 10Hz 0) AC 100mV 0
Rd N001 out 70K
V1 N001 0 15
R4 N001 N004 10k
R5 N004 0 500
M1 out N004 0 0 CMOSN l=510n w=5.5u
C1 N004 N003 10µ
C2 out 0 0.001n
C3 out N004 0.45n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\rishi\OneDrive - IIT Delhi (1)\Documents\LTspiceXVII\lib\cmp\standard.mos
;.tran 10
.INCLUDE tsmc018.lib
;.op
.ac dec 5 100 1e10
.backanno
.end
